US06191150B1
To a 0° C. solution of 2,3-dimethyl-2-butene in THF (43.2 mmol, 1.0 M) is added a solution of borane in THF (43.2 mmol, 1.0 M) dropwise over 20 min. After stirring an additional 60 min at 0° C., tert-butyl (2S,3R)-2-benzyloxycarbonylamino-3-methyl-4-pentenoate (13.15 g, 41.2 mmol) in 20 mL THF is added dropwise, and the resulting solution is allowed to come to 25° C. over 60 min. The solution is cooled again to 0° C. and quenched with 6 ml of 1:1 THF-ethanol, added cautiously, then 40 mL of pH 7.0 phosphate buffer. 40 mL 30% hydrogen peroxide is added and the reaction mixture is stirred at 25° C. for 14 h. The mixture is partially concentrated, added to saturated aqueous sodium chloride, and extracted with ether. The combined organic layers are washed twice with ice-cold saturated aqueous sodium sulfite, water, and saturated aqueous sodium chloride, and dried over magnesium sulfate. Concentration in vacuo and purification by silica gel chromatography (elution with hexanes-EtOAc, 3:2) provides tert-butyl (2S,3R)-2-benzyloxycarbonylamino-3-methyl-5-hydroxypentanoate as an oil (12.3 g, 89%).

reactant | 2,3-dimethyl-2-butene | CC(C)=C(C)C | C6H12
reactant | borane | B | BH3
reactant | tert-butyl (2S,3R)-2-benzyloxycarbonylamino-3-methyl-4-pentenoate | 41.2 mmol, 13.15 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC(C)(C)C)[C@@H](C=C)C | C18H25NO4
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 43.2 mmol, 1.0 M | C1CCOC1 | C4H8O
reactant | THF | 43.2 mmol, 1.0 M | C1CCOC1 | C4H8O
product | tert-butyl (2S,3R)-2-benzyloxycarbonylamino-3-methyl-5-hydroxypentanoate | 12.3 g, 89% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC(C)(C)C)[C@@H](CCO)C | C18H27NO5
